* C:\Users\waynl\Documents\LTspice\inverter.asc
* Generated by LTspice 26.0.2 for Windows.
X§U1 NC_01 NC_02 NC_03 NC_04 NC_05 NC_06 LTC6268-10 ;§pnba IN+)IN-)OUT)VCC)VEE)SHDN_L
R1 N001 N003 100
R2 N002 N001 100
V3 N003 0 5
V1 +V 0 11
V2 -V 0 -11
X§U2 NC_07 NC_08 NC_09 NC_10 NC_11 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
X§U3 0 N001 +V -V N002 LT1001 ;§pnba In+)In-)V+)V-)OUT
.tran 5
* Library below included based on ModelFile attribute of instance X§U3 (C:\Users\waynl\AppData\Local\LTspice\lib\sym\OpAmps\OP07.asy)
.lib LTC.lib
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\waynl\AppData\Local\LTspice\lib\sym\OpAmps\LTC6268-10.asy)
.lib LTC2.lib
* Library below included based on ModelFile attribute of instance X§U2 (C:\Users\waynl\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp.asy)
.lib UniversalOpAmp1.lib
.backanno
.end
