* C:\Users\waynl\Documents\LTspice\susanshore.asc
* Generated by LTspice 26.0.2 for Windows.
M1 N001 N003 N004 N004 IXSJ43N120R1
M2 N001 N005 N006 N006 AONS66920
R1 N004 N007 100
R2 N006 N007 100
Resistance N007 0 100K
V1 N001 0 12
V2 N002 0 PULSE(0 3.3 0 1n 1n 1s 9s)
V3 N005 0 PULSE(0 3.3 3s 1n 1n 1s 9s)
R4 N003 N002 1000
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\waynl\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 100
.model mydiode D(IS=83p N=1 RS=0)
.model IXSJ43N120R1 VDMOS(
+ Vto=3.8 Kp=6 Lambda=0
+ Rg=1 Rd=20m Rs=4m Rds=1.2G Rb=30m
+ BV=1200 IBV=1u
+ Cgs=2.45n Cgdmin=5p Cgdmax=1n A=1 Cjo=1.3n
+ Is=1e-14 N=1.2 Vj=2 M=0.5 tt=15n
+ mfg=Littelfuse Vds=1200 Ron=36m Qg=79n
+ Tnom=25)
.backanno
.end
