* C:\Users\waynl\Documents\LTspice\testAmplifier.asc
* Generated by LTspice 26.0.2 for Windows.
M1 N005 N008 0 0 BSZ0920NS
R1 N001 N005 1000
D1 N005 N001 1N5817
V1 N001 0 12
V2 N008 0 PULSE(0 3.3 0 1n 1n 8999850u 9s)
M2 N006 N009 0 0 BSZ0920NS
R2 N001 N006 1000
D2 N006 N001 1N5817
V4 N009 0 PULSE(0 3.3 3s 1n 1n 8999850u 9s)
X§U1 N007 N003 N004 N002 NC_01 N002 LTC6268-10 ;§pnba IN+)IN-)OUT)VCC)VEE)SHDN_L
R3 N003 NC_02 100000000
R4 N004 N003 100000000
D3 N005 P001 1N5817
D4 N006 N011 1N5817
R6 P001 N012 100
R7 N011 N012 100
V3 +V 0 14
V5 -V 0 -14
X§U3 N012 N010 +V -V N010 LT1169 ;§pnba In+)In-)V+)V-)OUT
R5 N010 0 1000
.model D D
.lib C:\Users\waynl\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\waynl\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 100
* Library below included based on ModelFile attribute of instance X§U3 (C:\Users\waynl\AppData\Local\LTspice\lib\sym\OpAmps\LT1169.asy)
.lib LTC.lib
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\waynl\AppData\Local\LTspice\lib\sym\OpAmps\LTC6268-10.asy)
.lib LTC2.lib
.backanno
.end
